US06884814B2
Step e) 1-Bromo-4-methoxy-2,5-dipropylbenzene.
To a solution of 2-methoxy-1,4-dipropylbenzene (2.0 g, 10.4 mmol) in acetonitrile (30 mL) at room temperature was added N-bromosuccinimide (1.85 g, 10.4 mmol) in three portions. The solution was stirred at 60° C. for 20 hr and then most of the solvent was removed in vacuo. Extracton in hexanes (2×100 mL) with 50% saturated brine (75 mL) and flash chromatography with silica gel (100% hexanes) provided the title compound as a colorless liquid (2.50 g, 89% yield): 1H NMR (300 MHz, CDCl3) δ 0.93 (t, 3H, J=7.5 Hz), 0.99 (t, 3H, J=7.6 Hz), 1.60 (m, 4H), 2.50 (t, 2H, J=7.7 Hz), 2.65 (t, 2H, J=7.8 Hz), 3.79 (s, 3H), 6.67 (s, 1H), 7.24 (s, 1H).

reactant | 2-methoxy-1,4-dipropylbenzene | 10.4 mmol, 2.0 g | COC1=C(C=CC(=C1)CCC)CCC | C13H20O
reactant | N-bromosuccinimide | 10.4 mmol, 1.85 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | brine | 75 mL | [Cl-].[Na+].O
product | 1-Bromo-4-methoxy-2,5-dipropylbenzene | 2.50 g, 89% yield | BrC1=C(C=C(C(=C1)CCC)OC)CCC | C13H19BrO
